US04001426
Acylation of 2-[4'-(2-chloroethoxy)phenyl]-5-methoxybenzofuran with 3,5-dimethylbenzoyl chloride as described in the procedure of Example 11 gives 2-[4'-(2-chloroethoxy)phenyl]-5-methoxy-3-(3',5'-dimethylbenzoyl)benzofuran.

reactant | 2-[4'-(2-chloroethoxy)phenyl]-5-methoxybenzofuran | ClCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)OC | C17H15ClO3
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
product | 2-[4'-(2-chloroethoxy)phenyl]-5-methoxy-3-(3',5'-dimethylbenzoyl)benzofuran | ClCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=C(C=C2)OC | C26H23ClO4
